US06919365B2
5,5-Dimethyl-1,3-bisnaphthylcarbonyl imidazolidine-2,4-dione (Compound 33)
5,5-Dimethylimidazolidine-2,4-dione (1.28 g) was dissolved in tetrahydrofuran (50 mL), and sodium hydride (60%, in oil) (0.80 g) was added at 0° C. under ice-cooling. After stirred for 30 minutes, 1-naphthoyl chloride (3.80 g) was added at 0° C., and the mixture was stirred at room temperature overnight. Ethyl acetate (200 mL) was added to the reaction solution, the mixture was washed with a saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. Further purification by silica gel chromatography (hexane:ethyl acetate=2:1) afforded 1.19 g of white crystals.

reactant | 5,5-Dimethylimidazolidine-2,4-dione | 1.28 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | sodium hydride | 0.80 g | [H-].[Na+]
reactant | 1-naphthoyl chloride | 3.80 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 5,5-Dimethyl-1,3-bisnaphthylcarbonyl imidazolidine-2,4-dione | 1.19 g | CC1(C(N(C(N1C(=O)C1=CC=CC2=CC=CC=C12)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O)C | C27H20N2O4
